US07868001B2
Al(CH3)3 (20 mmol) was added dropwise to the ice-water cooled solution of DMEDA (4.4 mmol) in dry toluene (60 mL) under nitrogen. After addition, it was continued to stir for 2 hours at room temperature. Then, methyl-3-cyano-5-(methylsulfonamido)benzoate (4 mmol) was added, and the reaction mixture was heated to reflux overnight. After cooling, it was poured into diluted hydrochloric acid, the mixture was extracted with EtOAc, the combined organic layer was washed with water and brine sequentially, dried over anhydrous Na2SO4, and concentrated to afford N-(3-acetyl-5-cyanophenyl)methanesulfonamide with a yield of 35%. Br2 (1.2 mmol) was added dropwise to the solution of N-(3-acetyl-5-cyanophenyl)methanesulfonamide (1 mmol) in Et2O (50 mL). After addition, it was continued to stir for 1.5 hours. Then the reaction mixture was washed with water and brine sequentially, dried over anhydrous Na2SO4, and concentrated to afford N-(3-(2-bromoacetyl)-5-cyanophenyl)methanesulfonamide with a yield of 85%.

reactant | Br2 | 1.2 mmol | BrBr | Br2
reactant | N-(3-acetyl-5-cyanophenyl)methanesulfonamide | 1 mmol | C(C)(=O)C=1C=C(C=C(C1)C#N)NS(=O)(=O)C | C10H10N2O3S
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | N-(3-(2-bromoacetyl)-5-cyanophenyl)methanesulfonamide | yield of 85% | BrCC(=O)C=1C=C(C=C(C1)C#N)NS(=O)(=O)C | C10H9BrN2O3S
